Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OTOLARYNGOLOGY
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
Right carotid body tumor
 
Major Surgical or Invasive Procedure:
1. Resection of right carotid body tumor.
2. Facial nerve monitoring.

 
History of Present Illness:
The patient is a ___ female with a history of multiple 
paragangliomas.  Previously, she had a left carotid body tumor 
as well as a left glomus vagale resected resulting in a left 
vocal cord paralysis as well as loss of sensation of the left 
side of her throat.  She has undergone left vocal cord 
reconstruction and at this time has a functioning voice and 
swallow.  The lesion on the right side was measured to be under 
2 cm.  She underwent embolization the night before resection.
 
Past Medical History:
Left vagal glomus tumor, as above
Bilateral carotid body tumors, as above
Hypertension.
Gastroesophageal reflux.
Head injury ___.
question of history of ___ disease.
 
Social History:
___
Family History:
Postive for FH of paragangiomas and pheochromocytomas. Brother 
treated for
malignant paraganglioma. + SDHD gene

 
Physical Exam:
Afebrile, vital signs stable

GEN: NAD
HEENT: neck incision well-approximating with sutures, no 
evidence of infection, neck flat, supple, full ROM, no hematoma, 
OP clear, voice dysarthric at baseline
CV: RRR
PULM: CTAB
ABD: s/nt/nd
EXT: warm, dry
NEURO: cn i-xii grossly intact, but tongue movements slow and 
speech dysarthric at baseline
 
Pertinent Results:
___ 04:05PM BLOOD WBC-8.9 RBC-4.32# Hgb-14.2# Hct-40.6# 
MCV-94 MCH-32.9* MCHC-35.0 RDW-11.9 Plt ___
___ 05:40AM BLOOD WBC-10.3 RBC-3.59* Hgb-11.8* Hct-34.1* 
MCV-95 MCH-32.8* MCHC-34.5 RDW-11.7 Plt ___
___ 04:05PM BLOOD Glucose-70 UreaN-15 Creat-0.6 Na-138 
K-4.9 Cl-105 HCO3-22 AnGap-16
___ 05:40AM BLOOD Glucose-60* UreaN-16 Creat-0.5 Na-138 
K-3.9 Cl-111* HCO3-15* AnGap-___ who presented to ___ for a right carotid body tumor 
resection. The day before the procedure, she underwent 
embolization by interventional neuroradiology, which she 
tolerated well. The patient also tolerated the following 
resection well; for details please see operative note. The 
recovered initially in the PACU, then was transferred to the 
VICU. The post-operative period was uneventful. In the immediate 
postoperative period, the patient's blood pressure was kept 
under 140 with iv hydralazine, and later iv metoprolol; 
telemetry was used to monitor the patient's cardiovascular 
status. She was switched to PO metoprolol for blood pressure 
control, and was given explicit instructions to follow up with 
her PCP for blood pressure monitoring and medication management. 


On POD1, her arterial line and her foley were discontinued. The 
patient received DVT prophylaxis throughout the hospitalization, 
and was also encouraged to ambulate. Diet was advanced as 
tolerated, and the neck drain was removed when it met criteria 
on POD3.  She received PRN hydralazine followed by IV lopressor 
for systolic BP >140 per the Vascular Surgery service.  After 
requiring 3 doses of Lopressor 5mg IV throughout POD1 and 2, she 
was transitioned to PO lopressor and received a total 25mg on 
the evening of POD2 for BP 150s-164/100s-112 with normalization 
of her BP.  She was prescribed lopressor 25mg BID and instructed 
to follow up with her primary care physician.  The patient is 
discharged: afebrile, tolerating a regular diet as she did 
previously, pain well controlled, voiding, incision clean, dry 
and intact, and ambulating well. On the day of discharge, the 
patient and staff agree she is ready for discharge home with 
instructions to follow up with Dr. ___ in ___ weeks.

 
Medications on Admission:
tylenol prn
 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
2. Tylenol ___ mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.  
3. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO twice 
a day: Hold if dizzy, low heart rate (<60).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right carotid body tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have been started on a new medication called Metoprolol. 
Please discuss this with your primary care physician ___ 1 
week. If you feel dizzy, please call your doctor, and do not 
take this medication.

Resume any home medications. Seek immediate medical attention 
for fever >101.5, chills, increased redness, swelling, bleeding 
or discharge from incision, chest pain, shortness of breath, 
difficulty breathing, severe headache, numbness or weakness in 
your extremities or face, or anything else that is troubling 
you. No strenuous exercise or heavy lifting until follow up 
appointment, at least. Do not drive or drink alcohol while 
taking narcotic pain medications. Call your surgeon to make 
follow up appointment. 
 
Followup Instructions:
___